US05977242
In an ammonia gas atmosphere, 100 parts of an isobutylene-maleic anhydride copolymer (sold under the trade name "ISOBAN 04" by KURARAY ISOPRENE K.K. of Kita-ku, Osaka, Japan) was heated to 180° C. to obtain an isobutylene-maleic imide-maleic anhydride copolymer. Then placed in a reactor were 40 parts of the isobutylene-maleic imide-maleic anhydride copolymer, 7 parts of 25% ammonia water and 160 parts of water. The mixture in the reactor was heated at 85° C. for 2 hours, thereby obtaining an aqueous solution of isobutylene-maleic imide-maleic anhydride copolymer. The aqueous solution contained 20% nonvolatile matter, and the viscosity of the aqueous solution was measured at 6,000 mPa.s.

reactant | ammonia | N | H3N
reactant | isobutylene maleic anhydride | CC(C)=C.C1(\C=C/C(=O)O1)=O
reactant | ISOPRENE | C=CC(C)=C | C5H8
product | isobutylene maleic imide maleic anhydride | CC(C)=C.C1(C=CC(N1)=O)=O.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H3NO2.C4H2O3.C4H8/c6-3-1-2-4(7)5-3;5-3-1-2-4(6)7-3;1-4(2)3/h1-2H,(H,5,6,7);1-2H;1H2,2-3H3
